US07618985B2
A solution of (S)-3-(oxo-1,2-dihydroisoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester (1 g, 2.9 mmol) and N-bromosuccinamide (516 mg, 2.9 mmol) in acetonitrile was stirred overnight at ambient temperature. The mixture was absorbed onto silica and flash chromatography (eluent: ethyl acetate) to give (S)-3-(4-bromo-1-oxo-1,2-dihydroisoquinblin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester (700 mg). Dichloromethane and trifluoroacetic acetic acid (3:1, 20 ml) were added to (S)-3-(4-bromo-1-oxo-1,2-dihydroisoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester and the mixture stirred for 2 h, then concentrated in vacuo to give a residue. The residue was loaded onto a pre-acidified SCX column using methanol and eluted with 2M ammonia in methanol to afford crude (S)-4-bromo-6-(piperidin-3-yloxy)-2H-isoquinolin-1-one (530 mg), which was purified by prep-HPLC, El-MS: m/z=325.5 [M+H]+.

reactant | Dichloromethane | ClCCl | CH2Cl2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | (S)-3-(4-bromo-1-oxo-1,2-dihydroisoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC=1C=C2C(=CNC(C2=CC1)=O)Br | C19H23BrN2O4
solvent | methanol | CO | CH4O
product | (S)-4-bromo-6-(piperidin-3-yloxy)-2H-isoquinolin-1-one | 530 mg | BrC1=CNC(C2=CC=C(C=C12)O[C@@H]1CNCCC1)=O | C14H15BrN2O2
